US04935437
A solution of 2,2'-(5-chloromethyl-1,3-phenylene)di(2-methylpropiononitrile), (0.23 g), and 1H-1,2,4-triazole (0.35 g) in acetonitrile (2 ml) was heated under reflux for 18 h, then evaporated to dryness. The residue was partitioned between 1N aqueous potassium hydrogen carbonate solution and ethyl acetate, the organic phase was separated, dried and evaporated to dryness under reduced pressure, and the residue was purified by flash column chromatography. Elution with methanol:chloroform (1:49 by volume), gave 2,2'-[5-(1H-1,2,4-triazol-1-ylmethyl)-1,3-phenylene]di(2-methylpropiononitrile), identical with the product of Example 1, and further elution with methanol:chloroform (2:23 by volume, gave 2,2'-[5-(4H-1,2,4-triazol-4-ylmethyl)-1,3-phenylene]di(2-methylpropiononitrile), mp. 158°-161°.

reactant | 2,2'-(5-chloromethyl-1,3-phenylene)di(2-methylpropiononitrile) | 0.23 g | ClCC=1C=C(C=C(C1)C(C#N)(C)C)C(C#N)(C)C | C15H17ClN2
reactant | 1H-1,2,4-triazole | 0.35 g | N1N=CN=C1 | C2H3N3
solvent | acetonitrile | 2 ml | C(C)#N | C2H3N
product | 2,2'-[5-(1H-1,2,4-triazol-1-ylmethyl)-1,3-phenylene]di(2-methylpropiononitrile) | N1(N=CN=C1)CC=1C=C(C=C(C1)C(C#N)(C)C)C(C#N)(C)C | C17H19N5
